* Transient Testbench for Radix-4 SRT Stage Slice
.include "schematic.spice"
VVDD VDD 0 DC 1.8V
VVSS VSS 0 DC 0.0V
VCTRL CTRL 0 PULSE(0 1.8 100ps 50ps 50ps 4ns 8ns)
VX X 0 PULSE(0 1.8 150ps 50ps 50ps 2ns 4ns)
VY Y 0 PULSE(0 1.8 200ps 50ps 50ps 1ns 2ns)
VCIN CIN 0 PULSE(0 1.8 0ps 50ps 50ps 3ns 6ns)
XDUT X Y CIN CTRL SUM COUT VDD VSS CAS_CELL
.tran 1ps 10ns
.measure tran tpd_cas_sum TRIG V(X) VAL=0.9 RISE=1 TARG V(SUM) VAL=0.9 RISE=1
